US05652205
EXAMPLE III: Geranyl Phenylacetate
A mixture of geraniol and nerol (approximately 70:30 by weight) in the amount of 51.02 g (0.324 mol) and triethylamine in the amount of 33.13 g (0.324 mol) are combined with 275 mL of dichloromethane. The reaction mixture is treated with a solution of phenylacetyl chloride in the amount 51.14 g (0.324 mol) dissolved in 100 ml of dichloromethane over 1 h. After heating to reflux for 1 h, the product mixture is cooled to room temperature, washed with 100 mL of brine twice, 100 mL of saturated NaHCO3 solution twice, 100 mL of water, and dried over MgSO4. The filtrate is concentrated by rotary evaporation followed by Kugelrohr distallation. Purification of the product by column chromatography provides a colorless oil. Purity of the product is determined by thin layer chromatography and the structure confirmed by 13C and 1H NMR.

reactant | geraniol | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | nerol | OC\C=C(/CCC=C(C)C)\C | C10H18O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 275 mL | ClCCl | CH2Cl2
product | Geranyl Phenylacetate | C1(=CC=CC=C1)CC(=O)OC\C=C(/C)\CCC=C(C)C | C18H24O2
